US07989480B2
2-(4-Phenoxy-phenoxy)-ethanol
To a solution of 4-Phenoxyphenol (3 g, 16.1 mmol), Potassium carbonate (11.1 g, 80.6 mmol), and 2-Butanone (37.5 mL) was added 2-Bromoethanol (3.14 mL, 44.3 mmol). The resulting mixture was stirred and refluxed at 90° C. overnight under nitrogen. The mixture was poured into 30 mL water solution and extracted with ethyl acetate (EtOAc) (3×10 mL). The combined organic layers were washed with brine (40 mL) and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to obtain the crude mixture, which was purified by of silica gel flash chromatography, using EtOAc/hexane (gradient system), to obtain the product (2.3 g, 62%): 1H NMR (400 MHz, CDCL3).

reactant | 4-Phenoxyphenol | 16.1 mmol, 3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | Potassium carbonate | 80.6 mmol, 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Butanone | 37.5 mL | CC(CC)=O | C4H8O
reactant | 2-Bromoethanol | 44.3 mmol, 3.14 mL | BrCCO | C2H5BrO
solvent | water | 30 mL | O | H2O
product | 2-(4-Phenoxy-phenoxy)-ethanol | 2.3 g, 62% | O(C1=CC=CC=C1)C1=CC=C(OCCO)C=C1 | C14H14O3
